US04367336
For example, 3-chloro-5-trifluoromethylpyridine-2-carboxylic acid is reacted with thionyl chloride whereby 3-chloro-5-trifluoromethylpicolinoyl chloride can be obtained. This compound is reacted with O-methylhydroxyamine hydrochloride at room temperature for 4 hours in the presence of potassium carbonate to obtain N-methoxy-3-chloro-5-trifluoromethylpyridine-2-carboximidic acid which is then reacted with O,O-diethylthionophospholic acid diester chloride at 50° C. for 24 hours in the presence of potassium carbonate to thereby obtain O,O-diethyl-O-(N-methoxy-3-chloro-5-trifluoromethylpyridine-2-carboximidoyl)thionophosphate (nD16.0 = 1.5054).

reactant | 3-chloro-5-trifluoromethylpyridine-2-carboxylic acid | ClC=1C(=NC=C(C1)C(F)(F)F)C(=O)O | C7H3ClF3NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-5-trifluoromethylpicolinoyl chloride | ClC=1C(=NC=C(C1)C(F)(F)F)C(=O)Cl | C7H2Cl2F3NO
reactant | O-methylhydroxyamine hydrochloride | Cl.CON
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | N-methoxy-3-chloro-5-trifluoromethylpyridine-2-carboximidic acid | CON=C(O)C1=NC=C(C=C1Cl)C(F)(F)F | C8H6ClF3N2O2
